US07060827B2
In a manner analogous to the preparation of N2,N4-bis[3-methoxy-4-(methoxycarbonyl)phenyl]-5-fluoro-2,4-pyrimidinediamine, the reaction of 2,6-dimethyl-4-nitrophenol (1.67 g, 10 mmol), potassium carbonate (13 g, 0.1 mol) and iodomethane (2.5 mL, 50 mmol) gave 2,6-dimethyl-1-methoxy-4-nitrobenzene. Hydrogenation of 2,6-dimethyl-1-methoxy-4-nitrobenzene gave 3,5-dimethyl-4-methoxyaniline.

reactant | N2,N4-bis[3-methoxy-4-(methoxycarbonyl)phenyl]-5-fluoro-2,4-pyrimidinediamine | COC=1C=C(C=CC1C(=O)OC)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)C(=O)OC)OC)F | C22H21FN4O6
reactant | 2,6-dimethyl-4-nitrophenol | 10 mmol, 1.67 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)O | C8H9NO3
reactant | potassium carbonate | 0.1 mol, 13 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 50 mmol, 2.5 mL | IC | CH3I
product | 2,6-dimethyl-1-methoxy-4-nitrobenzene | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)OC | C9H11NO3
